US08791142B2
Step 5) 2-(methyl((4-(5-(4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methyl)amino)acetic acid
To tert-butyl 2-(methyl((4-(5-(4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methyl)amino)acetate (0.056 g; 0.10 mmol) was added HCl solution in dioxan (4 M; 3 mL) and the reaction mixture stirred at 70° C. for 4 hours. The solvent was evaporated in vacuo and the residue purified by preparative HPLC, affording the title product as a brown oil. 1H NMR (CDCl3, 400 MHz) δ 8.79 (1 H, d, J=5.1 Hz), 8.49 (1 H, d, J=2.1 Hz), 8.33 (1 H, dd, J=8.4, 2.1 Hz), 8.04-8.00 (2 H, m), 7.55 (1 H, d, J=8.4 Hz), 4.11 (2 H, s), 3.50 (2 H, s), 3.15-3.01 (2 H, m), 2.62 (3 H, s), 2.62-2.54 (1 H, m), 1.90-1.44 (6 H, m), 0.86 (3 H, d, J=6.2 Hz). LC/MS: 490 (M+H)+. HPLC (Method B) Rt 3.46 min (Purity: 98.9%).

reactant | tert-butyl 2-(methyl((4-(5-(4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methyl)amino)acetate | 0.10 mmol, 0.056 g | CN(CC(=O)OC(C)(C)C)CC1=NC=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)N1C(CCCC1)C)C(F)(F)F | C28H34F3N5O3
reactant | HCl | Cl | ClH
solvent | dioxan | 4 M, 3 mL | O1CCOCC1 | C4H8O2
product | 2-(methyl((4-(5-(4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methyl)amino)acetic acid | CN(CC(=O)O)CC1=NC=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)N1C(CCCC1)C)C(F)(F)F | C24H26F3N5O3
